US05244908
Synthesis of 5-[3-(amino)propylamino]imidazo[1,2-a]pyridine dihydrochloride
To a suspension of 5-[3-(tert-butoxycarbonylamino)propylamino]imidazo[1,2-a]pyridine (1.742 g, 6 mmoles) in methylene chloride (40 ml) was added hydrogen chloride-methanol (6 ml) and the mixture was stirred at room temperature for 20 hours. After the solvent was distilled off, ethanol (15 ml) and ether (30 ml) were added to the residue. Then, the crystals precipitated were filtered off and washed in turn with ether and a small amount of ethanol to obtain 1.311 g of the desired product (83.0%, pale yellow crystals).

reactant | 5-[3-(tert-butoxycarbonylamino)propylamino]imidazo[1,2-a]pyridine | 6 mmoles, 1.742 g | C(C)(C)(C)OC(=O)NCCCNC1=CC=CC=2N1C=CN2 | C15H22N4O2
reactant | hydrogen chloride methanol | 6 ml | Cl.CO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(amino)propylamino]imidazo[1,2-a]pyridine dihydrochloride | 1.311 g, 83.0% | Cl.Cl.NCCCNC1=CC=CC=2N1C=CN2 | InChI=1S/C10H14N4.2ClH/c11-5-2-6-12-9-3-1-4-10-13-7-8-14(9)10;;/h1,3-4,7-8,12H,2,5-6,11H2;2*1H
